US06953785B2
Methyl 2-bromopropionate (10.0 g, 59.9 mmol) was dissolved in acetonitrile (200 mL) followed by addition of isopropylamine (15.3 mL, 180 mmol), potassium carbonate (24.8 g, l80 mmol) and benzyltriethylammonium chloride (1.36 g, 5.99 mmol), and then the mixture was stirred at 70° C. for 17 hours. Water was added to the reaction mixture, and then the mixture was extracted with ethyl acetate. The organic layer was washed with a saturated saline solution, and then dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and methyl 2-(isopropylamino)propionate (6.70 g; yield 77%) was thus obtained.

reactant | Methyl 2-bromopropionate | 59.9 mmol, 10.0 g | BrC(C(=O)OC)C | C4H7BrO2
reactant | isopropylamine | 180 mmol, 15.3 mL | C(C)(C)N | C3H9N
reactant | potassium carbonate | 24.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | Water | O | H2O
solvent | acetonitrile | 200 mL | C(C)#N | C2H3N
catalyst | benzyltriethylammonium chloride | 5.99 mmol, 1.36 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
product | methyl 2-(isopropylamino)propionate | 6.70 g, yield 77% | C(C)(C)NC(C(=O)OC)C | C7H15NO2
